US07119221B2
Under a N2 atmosphere, NaH (60% (w/w) in mineral oil, 7.55 g, 189 mmol) was added portion wise to a solution of TosMIC (12.48 g, 62.6 mmol) and Bu4NI (2.56 g, 6.93 mmol) in dry DMSO (200 mL) while stirring vigorously and cooling with a water bath. After 30 min, butyl 1-(5-bromo-pentyl)-cyclopentanecarboxylate (44.46 g, >90% pure by GC, 125 mmol) was added drop wise to the mixture in 20 min and after 1 h of stirring, another portion of NaH (60% (w/w) in mineral oil, 1.20 g, 30.0 mmol) was added. After 1 h, the reaction mixture was slowly poured into ice-cold H2O (500 mL) and the resulting mixture was extracted with Et2O (3×250 mL). The combined organic layers were washed with aqueous NaCl (10%, 250 mL) and brine (2×200 mL), dried (Na2SO4) and filtered through a layer of silica (150 g). The residue was washed with Et2O (250 mL) and the combined filtrate and washings were evaporated in vacuo. The remaining oil was purified by column chromatography (silica, heptane:EtOAc=8:1) to give butyl 1-{11-[1-(butoxycarbonyl)cyclopentyl]-6-isocyano-6-[(4-methylphenyl)sulfonyl]undecyl}-1-cyclopentanecarboxylate as a yellow oil (32.79 g). This oil (32.79 g) was dissolved in CH2Cl2 (400 mL), and conc aqueous HCl (150 mL) was added. After stirring vigorously for 4.5 h, H2O (500 mL) was added and the layers were separated. The aqueous phase was extracted with CH2Cl2 (2×100 mL) and the combined organic layers were washed with saturated H2O (200 mL), saturated aqueous NaHCO3 (500 mL) and brine (500 mL), dried (Na2SO4) and evaporated in vacuo. The remaining residue was purified by column chromatography (silica, heptane:EtOAc=6:1) to give butyl 1-{11-[1-(butoxycarbonyl)cyclopentyl]-6-oxoundecyl}-1-cyclopentanecarboxylate (24.11 g, 90% pure by 1H NMR, 69%) as a slightly yellow liquid. 1H NMR (CDCl3): δ=4.06 (t, J=6.6 Hz, 4H), 2.36 (t, J=7.4 Hz, 4H), 2.15–2.06 (m, 4H), 1.65–1.52 (m, 20H), 1.49–1.32 (m, 8H), 1.27–1.19 (m, 8H), 0.94 (t, J=7.4 Hz, 6H). 13C NMR (CDCl3): δ=210.9, 177.6 (2×), 63.8 (2×), 54.0 (2×), 42.5 (2×), 38.9 (2×), 35.8 (4×), 30.6 (2×), 29.5 (2×), 25.6 (2×), 24.7 (4×), 23.4 (2×), 19.0 (2×), 13.5 (2×). HRMS calcd for C31H54O5 (M+): 506.3971, found: 506.3981.

reactant | NaH | 189 mmol, 7.55 g | [H-].[Na+]
reactant | TosMIC | 62.6 mmol, 12.48 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | butyl 1-(5-bromo-pentyl)-cyclopentanecarboxylate | 125 mmol, 44.46 g | BrCCCCCC1(CCCC1)C(=O)OCCCC | C15H27BrO2
reactant | NaH | 30.0 mmol, 1.20 g | [H-].[Na+]
catalyst | Bu4NI | 6.93 mmol, 2.56 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | butyl 1-{11-[1-(butoxycarbonyl)cyclopentyl]-6-isocyano-6-[(4-methylphenyl)sulfonyl]undecyl}-1-cyclopentanecarboxylate | 32.79 g | C(CCC)OC(=O)C1(CCCC1)CCCCCC(CCCCCC1(CCCC1)C(=O)OCCCC)(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-] | C39H61NO6S
